US04207234
3-(2-Phenylacetamido)-1-(α-methoxycarbonyl-4-benzyloxybenzyl)-2-azetidinone (70 mg) was dissolved in absolute ethanol (10 ml), and to the solution, there was added 10% palladium on carbon (30 mg). The mixture was subjected to catalytic reduction in a stream of hydrogen gas at ordinary temperature and ordinary atmospheric pressure. After a calculated volume of the hydrogen gas was absorbed into the mixture in the course of 3 hours, the catalyst was removed by filtration to give a filtrate, which was evaporated to dryness under reduced pressure. The resultant residue was treated with diethyl ether to give 3-(2-phenylacetamido)-1-(α-methoxycarbonyl-4-hydroxybenzyl)-2-azetidinone (40 mg), mp 171.5° to 175° C.

reactant | 3-(2-Phenylacetamido)-1-(α-methoxycarbonyl-4-benzyloxybenzyl)-2-azetidinone | 70 mg | C1(=CC=CC=C1)CC(=O)NC1C(N(C1)C(C1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)OC)=O | C27H26N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
product | 3-(2-phenylacetamido)-1-(α-methoxycarbonyl-4-hydroxybenzyl)-2-azetidinone | 40 mg | C1(=CC=CC=C1)CC(=O)NC1C(N(C1)C(C1=CC=C(C=C1)O)C(=O)OC)=O | C20H20N2O5
